US04472413
9-(4-Methylbenzyl)-9-aza-bicyclo-[3.3.1]-nonan-3-one (D9)
A solution of 4-methylbenzylamine (12 g) in dilute hydrochloric acid (5N, 20 ml) was added to glutaric dialdehyde (50%, 24 ml) in water (100 ml) with stirring. A solution of 1,3-acetonedicarboxylic acid (14.6 g) and sodium acetate (8.2 g) in water (100 ml) was then added and the mixture stirred for 24 hours at room temperature. A further quantity of dilute hydrochloric acid (5 ml) was then added and the mixture stirred for a further 48 hours.

reactant | 4-methylbenzylamine | 12 g | CC1=CC=C(CN)C=C1 | C8H11N
reactant | glutaric dialdehyde | 24 ml | C(CC=O)CC=O | C5H8O2
reactant | 1,3-acetonedicarboxylic acid | 14.6 g | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | sodium acetate | 8.2 g | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | 5N, 20 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | 9-(4-Methylbenzyl)-9-aza-bicyclo-[3.3.1]-nonan-3-one | CC1=CC=C(CN2C3CC(CC2CCC3)=O)C=C1 | C16H21NO
